US07351834B1
To a solution of 4-(3-carboxy-4-methoxyphenoxy)-1-nitrobenzene (0.50 g, 1.75 mmol) in CH2Cl2 (12 mL) was added SOCl2 (0.64 mL, 8.77 mmol) in portions. The resulting solution was heated at the reflux temp. for 18 h, cooled to room temp., and concentrated under reduced pressure. The resulting yellow solids were dissolved in CH2Cl2 (3 mL) then the resulting solution was treated with a methylamine solution (2.0 M in THF, 3.5 mL, 7.02 mmol) in portions (CAUTION: gas evolution), and stirred at room temp. for 4 h. The resulting mixture was treated with a 1N NaOH solution, then extracted with CH2Cl2 (25 mL). The organic layer was dried (Na2SO4) and concentrated) under reduced pressure to give 4-(3-(N-methylcarbamoyl)-4-methoxyphenoxy)-1-nitrobenzene as a yellow solid (0.50 g, 95%).

reactant | 4-(3-carboxy-4-methoxyphenoxy)-1-nitrobenzene | 1.75 mmol, 0.50 g | C(=O)(O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1OC | C14H11NO6
reactant | SOCl2 | 8.77 mmol, 0.64 mL | O=S(Cl)Cl | Cl2OS
reactant | methylamine | 7.02 mmol, 2.0 M, 3.5 mL | CN | CH5N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-(N-methylcarbamoyl)-4-methoxyphenoxy)-1-nitrobenzene | 0.50 g, 95% | CNC(=O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1OC | C15H14N2O5
